* C:\Users\whoyo\Documents\ELECTENG 311\311\LTSpice\digital_logic.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 N005 Vref2 Vcc 0 N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U2 N002 Vin_voltage Vcc 0 N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V1 Vin_voltage 0 SINE(2.5 2.5 1)
V2 Vref1 0 3.5
V3 Vref2 0 2.5
R2 N001 N002 470k
R4 N003 N005 470k
V4 Vcc 0 5
R1 N002 Vref1 10k
R3 N005 Vin_voltage 10k
X§U3 N013 Vref4 Vcc 0 N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U4 N009 Vin_current Vcc 0 N007 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V5 Vin_current 0 SINE(2.5 2.5 1)
V6 Vref3 0 4.25
V7 Vref4 0 0.75
R5 N007 N009 470k
R6 N011 N013 470k
R7 N009 Vref3 10k
R8 N013 Vin_current 10k
X§U5 N012 Vref6 Vcc 0 N010 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U6 N008 Vin_temp Vcc 0 N006 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V9 Vin_temp 0 SINE(2.5 2.5 1)
V10 Vref5 0 4.5
V11 Vref6 0 0.5
R9 N006 N008 470k
R10 N010 N012 470k
R11 N008 Vref5 10k
R12 N012 Vin_temp 10k
A1 V_voltage V_current 0 0 0 0 N004 0 AND
A2 N001 N003 0 0 0 0 V_voltage 0 AND
A3 N007 N011 0 0 0 0 V_current 0 AND
A4 N006 N010 0 0 0 0 V_temp 0 AND
A5 N004 V_temp 0 0 0 0 Viso 0 AND
.tran 0 40 0 1m
* Since for each sensor a voltage too high or too low \nindicates unsafe operation a window comparator can be \nused to output logic HIGH when the input signal Vin is \nwithin a certain range, and logic LOW when outside of \nsaid range.
* The purpose of the window comparators is to output a logic\nHIGH when a sensor detects safe operation.
* Over Voltage
* Over Current
* Over Temperature
* Digital Logic
* 74HC08D, 63 \nAND Gate Placeholder
* 74HC08D, 63 \nAND Gate Placeholder
* 74HC08D, 63 \nAND Gate Placeholder
* Isolation Switch Input Logic
* 74HC08D, 63 \nAND Gate Placeholders
* Standard AND gate are used as placeholders for\n74HC08D, 653 AND gates\n \nThe place holder AND gates output 1 V. whereas in reality\nthe 74HC08D, 653 can output up to Vcc volts (5 V).
* Two gates are used here to represent that the\n74HC08D, 653 AND gates only have two inputs.\nSo two gates are required for three inputs.
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3, X§U4, X§U5, X§U6 (C:\Users\whoyo\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
