* C:\University\Engineering\Stage3\Semester2\ELECTENG 311\311\LTSpice\isolation_switch.asc
* Generated by LTspice 24.1.9 for Windows.
M1 V_charger N001 N002 N002 IRFZ46N
M2 Vsc N001 N002 N002 IRFZ46N
C1 Vsc N003 30
R13 N003 0 100m
V8 Vios_test 0 PULSE(0 5 0 0 0 10 20)
V12 V_charger 0 3.5
R1 N001 Vios_test 12
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reube\AppData\Local\LTspice\lib\cmp\standard.mos
* This circuit shows the desired behaviour of an isolation switch,\nand how the capacitor should not charge or discharge when isolated.\n \nWhen the capacitor needs to be isolated Vios_test is high. The \ncapacitor voltage Vsc does not increase or decrease, and\nthe current throught the capacitor goes to zero.\n \nTo show this behaviour the charger voltage V_charger is set\nto a constant.
* Back to Back N-Mosfet Isolation Switch
* Hybrid Supercapacitor \nwith ESR
.tran 0 40 0 1m
.backanno
.end
